US08440651B2
Paraformaldehyde (20 mg, 1.5 eq) was added to a solution of 1-((2-chloro-4-morpholinopyrido[3,2-d]pyrimidin-6-yl)methylamino)-2-methylpropan-2-ol (0.16 g) in DCM (2.5 mL). The reaction was stirred for 5 minutes before addition of sodium cyanoborohydride (1.2 eq). Methanol (1 mL) was added to the reaction mixture which was then stirred overnight at room temperature. The reaction was diluted with ethyl acetate and washed with water. The organic layer was dried over magnesium sulfate, filtered and concentrated to give 0.12 g of 1-(((2-chloro-4-morpholinopyrido[3,2-d]pyrimidin-6-yl)methyl)(methyl)amino)-2-methylpropan-2-ol as a yellow oil.

reactant | Paraformaldehyde | 20 mg, 1.5 eq | C=O | CH2O
reactant | 1-((2-chloro-4-morpholinopyrido[3,2-d]pyrimidin-6-yl)methylamino)-2-methylpropan-2-ol | 0.16 g | ClC=1N=C(C2=C(N1)C=CC(=N2)CNCC(C)(O)C)N2CCOCC2 | C16H22ClN5O2
reactant | sodium cyanoborohydride | 1.2 eq | C(#N)[BH3-].[Na+]
reactant | Methanol | 1 mL | CO | CH4O
solvent | DCM | 2.5 mL | C(Cl)Cl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-(((2-chloro-4-morpholinopyrido[3,2-d]pyrimidin-6-yl)methyl)(methyl)amino)-2-methylpropan-2-ol | 0.12 g | ClC=1N=C(C2=C(N1)C=CC(=N2)CN(CC(C)(O)C)C)N2CCOCC2 | C17H24ClN5O2
